US05541195
g) (2R*,4S*)-2-Benzyl-1-t-butyloxycarbonyl-N-(4-quinolylmethyl)-4-piperidinamine
A mixture of 5 g (17.2 mmol) of (2R*,4S*)-2-benzyl-1-t-butyloxycarbonyl-4-piperidinamine and 2.7 g (17.2 mmol) of quinoline-4-carboxaldehyde in 50 ml of toluene is stirred at room temperature and, after 2 hours, 2.8 g (23.3 mmol) of anhydrous magnesium sulfate are added. After a further 16 hours, the mixture is filtered and the filtrate is concentrated. The brown oil is dissolved in 50 ml of methanol, and 0.69 g (18.3 mmol) of sodium borohydride is added in 4 portions. After stirring at room temperature for 3 hours, the reaction mixture is concentrated, taken in ethyl acetate and washed with water and brine. The organic phases are dried over magnesium sulfate and evaporated to dryness. The brown oil is chromatographed on silica gel with methylene chloride/methanol/conc. ammonia 850:50:1). The title compound is obtained as yellow oil. TLC: methylene chloride/methanol/conc. ammonia (700:50:1) Rf =0.38, FD-MS: M+ =431.

reactant | (2R*,4S*)-2-benzyl-1-t-butyloxycarbonyl-4-piperidinamine | 17.2 mmol, 5 g | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N)C(=O)OC(C)(C)C | C17H26N2O2
reactant | quinoline-4-carboxaldehyde | 17.2 mmol, 2.7 g | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | magnesium sulfate | 23.3 mmol, 2.8 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium borohydride | 18.3 mmol, 0.69 g | [BH4-].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (2R*,4S*)-2-Benzyl-1-t-butyloxycarbonyl-N-(4-quinolylmethyl)-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)NCC1=CC=NC2=CC=CC=C12)C(=O)OC(C)(C)C | C27H33N3O2
